US05143923
N-[2-(1-(6-Chloro-1,2-benzisoxazol-3-yl)-4-piperidinyl)ethyl]-1,2-benzisothiazole-3-carboxamide
A mixture of N-(2-chloroethyl)-1,2-benzisothiazole-3-carboxamide (2.9 g) and 1-(6-chloro-1,2-benzisoxazol-3-yl)piperidine (3.48 g) in dry N-methylpyrrolidinone (125 ml) was heated to 180° C., with stirring, under nitrogen. After 5 hr, the reaction mixture was allowed to cool to room temperature, diluted with water, basified with saturated aqueous sodium carbonate solution, and extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica using ether as the eluent. The appropriate fractions were collected and evaporated. The residue was triturated with dichloromethane/ether to give 2.38 g (44.6%) of product, mp 132°-134° C.

reactant | N-(2-chloroethyl)-1,2-benzisothiazole-3-carboxamide | 2.9 g | ClCCNC(=O)C1=NSC2=C1C=CC=C2 | C10H9ClN2OS
reactant | 1-(6-chloro-1,2-benzisoxazol-3-yl)piperidine | 3.48 g | ClC1=CC2=C(C(=NO2)N2CCCCC2)C=C1 | C12H13ClN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N-methylpyrrolidinone | 125 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | N-[2-(1-(6-Chloro-1,2-benzisoxazol-3-yl)-4-piperidinyl)ethyl]-1,2-benzisothiazole-3-carboxamide | 2.38 g, 44.6% | ClC1=CC2=C(C(=NO2)N2CCC(CC2)CCNC(=O)C2=NSC3=C2C=CC=C3)C=C1 | C22H21ClN4O2S
